US08859814B2
4-amino-3,5-dichloro-N-{(1S)-1-[(cis)-octahydroisoquinolin-2(1H) -ylcarbonyl]-3-phenylpropyl}benzenesulfonamide
Example 115 is prepared from Boc-(L)-homophenylalanine, (±)-cis-decahydroisoquinoline, and 4-amino-3,5-dichlorobenzenesulfonyl chloride in the same manner that Example 1 is synthesized. ESI MS: Calc: 523.2; Found: 524.3 (M+H)+.

reactant | Boc-(L)-homophenylalanine | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | (±)-cis-decahydroisoquinoline | C1NCC[C@@H]2CCCC[C@H]12 | C9H17N
reactant | 4-amino-3,5-dichlorobenzenesulfonyl chloride | NC1=C(C=C(C=C1Cl)S(=O)(=O)Cl)Cl | C6H4Cl3NO2S
product | 4-amino-3,5-dichloro-N-{(1S)-1-[(cis)-octahydroisoquinolin-2(1H) -ylcarbonyl]-3-phenylpropyl}benzenesulfonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)N1C[C@H]2CCCC[C@H]2CC1)Cl | C25H31Cl2N3O3S
